US08703808B2
(Z)-2-(5-methoxy-1H-indol-3-yl)-3-(1-methyl-1H-pyrazol-3-yl)-acrylonitrile
To a solution of sodium methanolate (204 mg, 3.8 mmol, 1.4 eq.) in anhydrous ethanol (30 mL) were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (500 mg, 2.7 mmol, 1.0 eq.) and, after 30 minutes stirring, 1-methyl-1H-pyrazole-4-carbaldehyde (326 mg, 3.0 mmol, 1.1 eq.). The reaction apparatus was protected from light and the mixture heated at 50° C. for 18 hours. The reaction was allowed to cool to room temperature and then, the solvent was removed under reduced pressure and the crude taken up in ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4 and then, evaporated. The residue was purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 99/1 to 98/2) to afford, after trituration with diethyl ether, the compound (51) as a beige powder (640 mg, 85%). mp: 178° C.; 1H NMR (DMSO, 300 MHz) δ (ppm): 3.81 (3H, s, 5′-methoxy), 3.92 (3H, s, N-methyl), 6.90 (1H, dd, J6′-7′=8.7 Hz, J6′-4′=2.3 Hz, H6′), 7.37 (1H, d, J7′-6′=8.7 Hz, H7′), 7.38 (1H, m, H4′), 7.55 (1H, s, H3), 7.61 (1H, s, H2′), 8.00 (1H, s, H3″), 8.24 (1H, s, H5″), 11.43 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 38.8 (N-methyl), 55.6 (5′-methoxy), 101.5 (C2), 101.5 (C4′), 109.8 (C3′), 111.9 (C6′), 112.9 (C7′), 117.4 (C4″), 119.3 (C1), 124.0 (C3a′), 125.6 (C2′), 128.5 (C3), 131.0 (C5″), 132.1 (C7a′), 138.8 (C3″), 154.1 (C5′); MS: ESI-MS: m/z 264.1 ([M+H]+), 286.1 ([M+Na]+); HRESI-MS: m/z 301.1060 (calcd for C16H14N4ONa+, 301.1065); Anal. Calcd for C19H14N4O, 0.1 H2O: C, 68.61; H, 5.11; N, 20.00; O, 6.55. Found: C, 68.73; H, 5.33; N, 19.69.

reactant | sodium methanolate | 3.8 mmol, 204 mg, 1.4 eq. | C[O-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 2.7 mmol, 500 mg, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 3.0 mmol, 326 mg, 1.1 eq. | CN1N=CC(=C1)C=O | C5H6N2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | H2O | O | H2O
product | (Z)-2-(5-methoxy-1H-indol-3-yl)-3-(1-methyl-1H-pyrazol-3-yl)-acrylonitrile | COC=1C=C2C(=CNC2=CC1)/C(/C#N)=C/C1=NN(C=C1)C | C16H14N4O
